US06825191B2
Step 2: Synthesis of (1-benzyl-4-nitro-1H-pyrazol-3-yl)methanol
2.04 g (7.8 mmol) of methyl 1-benzyl-4-nitro-1H-pyrazole-3-carboxylate was dissolved in a mixture of 10 ml of ethanol, 10 ml of THF and 5 ml of 1 N sodium hydroxide, and the obtained solution was stirred at room temperature for 4 hours. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the solvent was evaporated, and the obtained crude product was dissolved in 100 ml of THF. 1.5 ml (10.1 mmol) of triethylamine and 0.81 ml (8.5 mmol) of ethyl chloroformate were added to the obtained solution under cooling with ice, and they were stirred at room temperature for 30 minutes. Apiece of ice and 600 mg (15.6 mmol) of sodium borohydride were added to the obtained mixture. The temperature was elevated to room temperature, and the obtained mixture was stirred overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the crude product was obtained. After the purification by the silica gel column chromatography, the title compound was obtained.

reactant | methyl 1-benzyl-4-nitro-1H-pyrazole-3-carboxylate | 7.8 mmol, 2.04 g | C(C1=CC=CC=C1)N1N=C(C(=C1)[N+](=O)[O-])C(=O)OC | C12H11N3O4
reactant | triethylamine | 10.1 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 8.5 mmol, 0.81 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 15.6 mmol, 600 mg | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 1 N, 5 ml | [OH-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1-benzyl-4-nitro-1H-pyrazol-3-yl)methanol | C(C1=CC=CC=C1)N1N=C(C(=C1)[N+](=O)[O-])CO | C11H11N3O3
